Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
R arm pain
Fall
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with hx of
osteoporosis, osteoarthritis, depression, mild AS, HTN 
presenting
with R humeral fracture s/p fall and syncope. 

Ms. ___ was in her usual state of health until the 
afternoon
of ___. She was walking in a ___ parking lot when a car honked
at her. She tried to hurry across the road, tripping in the
process and falling on her outstretched R arm. As she tried to
get up, she became lightheaded and fell again. She was then
assisted to the sidewalk by some bystanders. She recalls the
entire event and denies preceding lightheadedness, visual
changes, or chest pain. She had head strike to the occiput but 
no
LOC or witnessed tonic/clonic activity; denies B/B incontinence
or tongue biting. She had R arm pain after the fall but denied
pain elsewhere, including in the bilateral hips.

Started was recently started on amlodipine 2.5 QHS in addition 
to
her lisinopril 40mg qAM on ___ for HTN but denies recent
lightheadness, even with standing, over the last few days. In
addition, denies F/C, CP, SOB, cough, abdominal pain, N/V,
diarrhea/constipation, dysuria/hematuria, headaches, new rashes.
She intermittently has blood with wiping secondary to know
hemorrhoids. 

ED:
Vitals T98.6, HR 72, BP 169/77, RR 18, 95% RA
Exam: swelling in R upper extremity with difficulty flexing
elbow; 2+ radial pulses
Labs: notable for Hct 33.6, trop negative
Imaging: R shoulder X-ray with comminuted proximal humerus
fracture, NCHCT neg, CT C-spine neg, CXR with subtle opacity R
lung base, pelvis X-ray w/subtle irregularity L pubic ramus
Consults: seen by ortho; thought to have possible partial tear 
of
biceps tendon in addition to fracture, no indication for surgery
Interventions: Tylenol 1g, oxycodone 5mg, ibuprofen 300mg,
amlodipine 2.5mg

In the ED, the patient was being helped out of bed to walk when
she lost consciousness and fell foward. She was caught and
lowered back into bed. No head impact, and again patient denies
premonitory symptoms, preceding lightheadedness/vision changes,
chest pain, B/B incontinence, tongue biting. Per ED resident, no
tonic/clonic activity witnessed.

On arrival to the floor, the patient endorses mild RUE pain but
otherwise feels well and is eager to go home.
 
Past Medical History:
Osteoporosis
Osteoarthritis
Depression
Aortic stenosis (mild)
Recurrent UTIs
HTN
Questionable ascending aorta dilation
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for
hospitalization.
 
Physical Exam:
ADMISSION EXAM
AF, BP 124/71, HR 52, RR 18, 94% RA
Lying 144/78, HR 58
Sitting 150/79, HR 63
Standing 146/76, HR 68
GENERAL: awake, alert, NAD
EYES: PERRL, anicteric sclerae
ENT: OP clear
CV: RRR, nl S1, S2, II/VI SEM, preserved S2, no radiation to
carotids, no JVD
RESP: CTAB, no crackles, wheezes, or rhonchi
GI: + BS, soft, NT, ND, no rebound/guarding, no HSM
GU: No suprapubic fullness or tenderness to palpation
SKIN: Ecchymosis of R upper extremity
MSK: RUE in cuff sling; TTP proximal R humerus over area of
ecchymosis, able to flex R elbow, 2+ radial/ulnar pulses and
intact capillary refill of RUE without paresthesias
NEURO: AOx3, CN II-XII intact, ___ strength in LUE/LLE/RLE, 
___
strength RUE, limited by pain, sensation grossly intact
throughout, gait testing deferred
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM
VITALS: 
24 HR Data (last updated ___ @ 1217)
Temp: 98.7 (Tm 98.7), BP: 158/110 (114-158/61-110), HR: 70
(55-70), RR: 18, O2 sat: 95% (94-96), O2 delivery: RA     
GENERAL: awake, alert, NAD
EYES: PERRL, anicteric sclerae
ENT: OP clear
CV: RRR, nl S1, S2, II/VI SEM, preserved S2, no radiation to
carotids, no JVD
RESP: CTAB, no crackles, wheezes, or rhonchi
GI: + BS, soft, NT, ND, no rebound/guarding, no HSM
GU: No suprapubic fullness or tenderness to palpation
SKIN: Ecchymosis of R upper extremity
MSK: RUE in cuff sling; TTP proximal R humerus over area of
ecchymosis, able to flex R elbow, 2+ radial/ulnar pulses and
intact capillary refill of RUE without paresthesias; no TTP over
the inferior pubic rami bilaterally
NEURO: AOx3, CN II-XII intact, ___ strength in LUE/LLE/RLE, 
___
strength RUE, limited by pain, sensation grossly intact
throughout, gait testing deferred
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Discharge labs:
WBC 7.9, Hct 31.7 (from 34.1, 33.6 on admission), Plt 190
Na 140, Cr 0.6
TSH 1.7
Trop negative x 2
Lactate ___
Ferritin 151, TIBC 261, B12 509, folate >20

BCx (___): pending x 2

EKG (___): NSR at 58 bpm, nl axis, PR 212, QRS 138, QTC 465 
(likely 447 accounting for RBBB), RBBB, TWI III/AVF, V1, V3-V5 
(largely unchanged from ___

EKG (___): NSR at 60bpm, nl axis, PR 210, QRS 134, QTC 470
(likely ~455 accounting for RBBB), RBBB, TWI III/AVF, V1, V3-V5
(no priors for comparison)

TTE (___):
The left atrium is normal in size. There is mild symmetric left
ventricular hypertrophy with normal cavity size. Due to
suboptimal technical quality, a focal wall motion abnormality
cannot be fully excluded. Overall left ventricular systolic
function is normal (LVEF>55%). There is no left ventricular
outflow obstruction at rest or with Valsalva. Right ventricular
chamber size and free wall motion are normal. The diameters of
aorta at the sinus, ascending and arch levels are normal. The
aortic valve leaflets are moderately thickened. There is no
aortic valve stenosis. Trace aortic regurgitation is seen. The
mitral valve leaflets are mildly thickened. Moderate (2+) mitral
regurgitation is seen. The pulmonary artery systolic pressure
could not be determined. There is a trivial/physiologic
pericardial effusion. 
IMPRESSION: Very suboptimal image quality. Moderate mitral
regurgitation. Mild symmetric left ventricular hypertrophy with
preserved global biventricular systolic function. No aortic
stenosis. No definite structural cardiac cause of syncope
identified. 

Pelvis X-ray (___):
Subtle irregularity of the left inferior pubic ramus is of
indeterminate age. Correlate with site of symptoms and consider
dedicated left hip radiographs or CT for further assessment.  No
evidence of acute fracture is seen elsewhere. 

R shoulder X-ray (___):
Comminuted, mildly displaced fracture of the proximal right
humerus, as above. 
Severe degenerative change of the right glenohumeral joint. 

CXR (___):
Subtle opacity medial right lung base may represent combination
of atelectasis and overlap of vascular structures, though
aspiration or pneumonia is difficult to exclude in the
appropriate clinical setting. 
Partially imaged proximal right humeral fracture is better
assessed on dedicated right shoulder radiographs. 

CT C-spine (___):
1. No acute fracture of the cervical spine. 
2. Multilevel degenerative changes.  Minimal anterolisthesis of
C7 over T1 of is indeterminate age given lack of priors for
comparison, however, findings may be degenerative. 

NCHCT (___): Negative
 
Brief Hospital Course:
___ female with hx of osteoporosis,
osteoarthritis, depression, mild AS, HTN presenting with R
humeral fracture s/p fall and syncope. 

ACUTE/ACTIVE PROBLEMS:
# R proximal comminuted humeral fracture:
# Possible partial R biceps tear:
Ms. ___ was admitted after a mechanical fall onto an
outstretched R arm. NCHCT and CT c-spine showed no e/o fracture,
but X-ray of the R shoulder showed a proximal comminuted humeral
fracture with a possible partial biceps rupture. No e/o
neurovascular compromise in the RUE. Ortho was consulted; no
operative intervention was indicated. She was placed in a cuff
sling. Pain was controlled with tylenol and tramadol PRN. She
should be NWB to the RUE pending ortho ___ in clinic in 2 weeks.
She was evaluated by ___ and OT and with receive home ___
services on discharge.

# Syncope:
# Fall:
The patient's humeral fracture was the result of a mechanical
fall. Her subsequent fall in the emergency room was consistent
with true syncope, thought most likely vasovagal in the setting
of pain and anxiety. Despite a borderline prolonged QTC of 465
and a borderline 1st degree AV block, there was no evidence of
arrhythmia on telemetry with ~36h of monitoring. Troponin was
negative x 2. EKG showed non-specific TWI in the inferior and
precordial leads that were stable (no baseline for comparison in
our system); thought unlikely to represent ACS in the absence of
chest pain and clearly mechanical first fall. TTE was of
suboptimal quality but showed an EF of >55% without clear wall
motion abnormalities to suggest an acute infarct, dynamic 
outflow
tract obstruction, or aortic stenosis. Mod MR was seen.
Orthostatic vitals were negative, and there was low suspicion 
for
seizure. Her home anti-hypertensives were held, but lisinopril
was resumed on discharge. Amlodipine, which was recently
initiated, was held on discharge, pending PCP ___. Further
consideration of a Holter monitor and stress testing was 
deferred
to the outpatient setting.

# HTN:
Home anti-hypertensives were initially held. Orthostatics were
negative. Lisinopril was resumed to discharge. Amlodipine was
held as above pending PCP ___.

# Normocytic anemia:
Admission Hct 33.6 from unclear recent baseline; last Hct
available 42 in ___. Likely due to ecchymosis from recent
trauma, but no evidence of active bleeding at the site and no
melena/hematochezia to suggest GI losses. Ferritin 151, TIBC 
261,
B12 and folate WNL. Hct remained stable and was 31.7 on
discharge. 

# Osteoporosis
Did not require home alendronate, which was continued on
discharge.

# Depression
# Insomnia
The patient's home temazepam was continued. Home citalopram was
held on discharged given borderline QTC (465) pending further
discussion with PCP.

# Irregularity L inferior pubic ramus on imaging:
Pelvic films on admission showed a possible irregularity of the 
L
inferior pubic ramus, which did not correlate with pain or
tenderness on exam. Further imaging was deferred.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO HS 
2. Temazepam 15 mg PO QHS:PRN insomnia 
3. Citalopram 20 mg PO DAILY 
4. Alendronate Sodium 35 mg PO WEEKLY 
5. Lisinopril 40 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  TraMADol 50 mg PO Q8H PRN severe pain 
Do not take in conjunction with temazepam 
RX *tramadol 50 mg 1 tablet(s) by mouth every 8 hours Disp #*15 
Tablet Refills:*0 
3.  Alendronate Sodium 35 mg PO WEEKLY  
4.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID  
5.  Lisinopril 40 mg PO DAILY  
6.  Multivitamins 1 TAB PO DAILY  
7.  Temazepam 15 mg PO QHS:PRN insomnia  
8. HELD- amLODIPine 2.5 mg PO HS  This medication was held. Do 
not restart amLODIPine until told to do so by your primary care 
doctor
9. HELD- Citalopram 20 mg PO DAILY  This medication was held. Do 
not restart Citalopram until told to do so by your primary care 
doctor

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
R comminuted proximal humerus fracture 
R partial biceps tear
Syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital after a fall resulting in a 
broken bone in your R arm. You were seen by the orthopedic 
surgeons, who determined that you do not need surgery. You were 
placed in a sling and will have visits from a physical therapist 
once home. In addition, we evaluated you for syncope (fall with 
loss of consciousness). There was no evidence of an abnormal 
heart rhythm, heart attack, or worsening of your mild heart 
valve disease. You should follow up with your primary care 
doctor to discuss additional testing, particularly if this 
recurs. You are being discharged with some adjustments to your 
home medications. Please discontinue the amlodipine that you 
take at night for high blood pressure until speaking with your 
primary care doctor. Take Tylenol as needed for your arm pain, 
along with tramadol for pain not relieved by the Tylenol. In 
addition, please discontinue your citalopram until told 
otherwise by your primary care doctor ___ some concern that 
it may put you at risk for an abnormal heart rhythm).

It was pleasure caring for you, and we wish you all the best.
 
Followup Instructions:
___